US07078414B2
b) 3-Chlorocarbonyl-1-(isoquinol-4-yl)-1H-pyrrole hydrochloride
0.82 mL (9.4 mmol) of oxalyl chloride is added to a solution, cooled to a temperature in the region of 5° C., of 0.75 g (3.15 mmol) of 3-carboxy-1-(isoquinol-4-yl)-1H-pyrrole in 25 mL of dichloromethane under an argon atmosphere. After stirring at a temperature in the region of 22° C. for 15 hours, the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa), resulting in 0.9 g of 3-chlorocarbonyl-1-(isoquinol-4-yl)-1H-pyrrole hydrochloride in the form of a cream-coloured solid which is used directly in the following step.

reactant | oxalyl chloride | 9.4 mmol, 0.82 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-carboxy-1-(isoquinol-4-yl)-1H-pyrrole | 3.15 mmol, 0.75 g | C(=O)(O)C1=CN(C=C1)C1=CN=CC2=CC=CC=C12 | C14H10N2O2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 3-Chlorocarbonyl-1-(isoquinol-4-yl)-1H-pyrrole hydrochloride | Cl.ClC(=O)C1=CN(C=C1)C1=CN=CC2=CC=CC=C12 | InChI=1S/C14H9ClN2O.ClH/c15-14(18)11-5-6-17(9-11)13-8-16-7-10-3-1-2-4-12(10)13;/h1-9H;1H
